US05240943
Preparation of N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]acetamide
To a stirred solution of 2-(3,4-dihydro-2H-1-benzopyran-4-yl]ethanal (2.50 g, 14.28 mmol) and 4-acetamidopiperidine AcOH (2.88 g, 14.28 mmol) (preparation described in U.S. Pat. No. 5,028,616) in ethanol (80 ml) under a nitrogen atmosphere, borane/pyridine complex (1.5 ml, 15 mmol) was added. The reaction mixture was stirred overnight (ca 15 h) and evaporated to an oily gum which was neutralized by careful addition of 10% hydrochloric acid. The acidic solution was extracted with diethyl ether and the diethyl ether extracts were discarded. The acidic aqueous layer was basified by dropwise addition of a 50% sodium hydroxide solution. The basic solution (>pH 12) was extracted with ethyl acetate. The ethyl acetate layer was washed with distilled water, dried (Na2SO4), filtered and evaporated to afford an oily gum (3.56 g). The resulting gum was purified by chromatography on silica (eluant: chloroform/ethanol/ammonium hydroxide; 85/14/1) to afford an oil (2.56 g) which was crystallized from diethyl ether to afford the title compound (2.40 g, 56%) mp=126-8°. Anal: C18H26N2O2Calc.: C 71.49; H 8.67; N 9.26; Found C 71.46; H 8.84; N 9.26.

reactant | 2-(3,4-dihydro-2H-1-benzopyran-4-yl]ethanal | 14.28 mmol, 2.50 g | O1CCC(C2=C1C=CC=C2)CC=O | C11H12O2
reactant | 4-acetamidopiperidine AcOH | 14.28 mmol, 2.88 g | C(C)(=O)NC1CCNCC1.CC(=O)O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]acetamide | 3.56 g | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)NC(C)=O | C18H26N2O2
